* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\pwm_memr_test\Draft1.asc
C2 N005 N004 2.2µ
R1 N001 N005 10K
R2 N001 N002 10K
Q1 N002 N005 0 0 NPN
C3 N003 N002 0.1µ
D1 0 N003 RF05VA1S
V1 N001 0 5
V2 N004 0 PWL file=test_signal1.txt
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.backanno
.end
